US06995162B2
1-(2-tert-Butyl-phenyl)-4-methyl-piperazine
2-tert-Butyl-phenylamine and bis-(2-chloro-ethyl)-methylamine were mixed together with K2CO3 (25 g), NaI (10 g) and diglyme (250 mL) and heated at 170° C. for 8 h. Cooled and filtered solid and evaporated solvent. Diluted with EtOAc, washed with NaHCO3 solution, extracted twice more with EtOAc, washed with brine, dried over Na2SO4 and evaporated to give the compound as a dark solid.

reactant | 2-tert-Butyl-phenylamine | C(C)(C)(C)C1=C(C=CC=C1)N | C10H15N
reactant | bis-(2-chloro-ethyl)-methylamine | ClCCN(C)CCCl | C5H11Cl2N
reactant | K2CO3 | 25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 10 g | [Na+].[I-]
solvent | diglyme | 250 mL | COCCOCCOC | C6H14O3
product | 1-(2-tert-Butyl-phenyl)-4-methyl-piperazine | C(C)(C)(C)C1=C(C=CC=C1)N1CCN(CC1)C | C15H24N2
